2115-05-04 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continue Amiodarone and lidocaine drips
   - Stopped standing Lasix (rec'd one dose IV in AM)--> but rapidly
   becoming more and more positive so gave another shot of IV lasix at
   1900 hours
   - Decreased Simvastatin dose
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Feels well this morning. No lightheadedness, chest pain, shortness of
   breath.
   Flowsheet Data as of  [**2115-5-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 75 (75 - 75) bpm
   BP: 89/49(59) {86/46(56) - 102/66(74)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  2,192 mL
                                                                    382 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                  1,192 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    500 mL
   Urine:
                                                                    885 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,307 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GENERAL:  NAD, resting comfortably
   NECK: Supple, no JVD
   CARDIAC: Distant heart sounds. RR, normal S1, S2. No m/r/g.
   LUNGS: CTAB, no crackles, wheezes or rhonchi
   ABDOMEN: Soft, NTND. Umbilical hernia, reducible
   EXTREMITIES: Chronic venous stasis bilaterally. Minimal ankle edema
   bilaterally. 2+ PT pulses bilaterally
   Labs / Radiology
   136 K/uL
   11.7 g/dL
   150 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   39 mg/dL
   98 mEq/L
   134 mEq/L
   35.7 %
   7.4 K/uL
        [image002.jpg]
   Above laboratory data from [**2115-5-3**]; labs from [**2115-5-4**] reviewed.
                                     132
                               [image004.gif]
                                     95
                               [image004.gif]
                                     41
   [image006.gif]
   151
      [image007.gif]
   4.0
                               [image004.gif]
                                     27
                               [image004.gif]
                                     1.9
   [image009.gif]
   Ca: 9.3 Mg: 2.2 P: 3.3
                                                                       5.0
                                                            [image009.gif]
                                    11.3
   [image006.gif]
   144
                 [image010.gif]
   [image006.gif]
                                    34.0
   [image009.gif]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
   WBC
   7.4
   Hct
   35.7
   Plt
   136
   Cr
   1.8
   1.8
   1.7
   Glucose
   148
   150
   Other labs: PT / PTT / INR:14.4/65.8/1.3, Ca++:9.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   85M with chronic systolic CHF, LV dysfuntion, s/p BiV ICD placment in
   [**2108**], and h/o VT treated with multiple therapies, most recently
   mexilitine/dofetilide admitted to CCU [**2115-5-3**] with VT refractory to
   mexilitine therapy
   .
   # RHYTHM: No repeat episodes of vtach within past 12 hours on
   Amiodarone, lidocaine drips. Patient also has history of PAF and has
   been off of warfarin pending possible procedure. No episodes of hypoxia
   overnight to associated vtach to hypoxia, OSA.
   - Continue to hold dofetilide and mexilitine
   - Replete lytes to K 4.5, Mg 2.2
   - Continue Amiodarone gtt
 per EP recs, transition to PO today
   - Continue lidocaine gtt
   - Heparin gtt for anticoagulation to bridge for procedure, will be
   started on coumadin post-procedure
   - Continue beta-blocker for rate control
   .
   # CORONARIES: No known CAD, however many risk factors including DM2,
   HTN, HL. R + L heart cath [**5-1**] shows no flow limiting disease.
   -          Continue betablocker, statin
   -          Why is he not on an aspirin?
   .
   # PUMP: Chronic systolic heart failure with EF 20%, s/p BiV ICD
   placement. Repeat TTE on this admission shows unchanged EF 20-25%
   dilated, LV with severe global hypokinesis. Mild signs of fluid
   overload on exam, including ankle edema and elevated JVD. Cath revealed
   elevated markedly elevated right (RA = 14 mm Hg) and left heart (PCWP =
   26mmHg) filling pressures consistent with CHF.
   - Standing Lasix 40mg IV BID
 goal even I/Os
   - Continue Carvedilol 12.5mg daily, Spironolactone 25mg daily
   - ACE inhibitor not indicated at this time given low BP
   .
   # Renal failure: Creatinine to 1.9. baseline 1.5 to 1.7. Likely due to
   DM and HTN. Urine lytes support a prerenal etiology.
   - Continue to trend Cr
   - Renally dose medications
   .
   # Chronic back pain: Pain well controlled. Continue tramadol and
   lidoderm patch per outpatient regimen.
   .
   # Type 2 Diabetes: Continue lantus 12 units daily and SSI.
   -qid fingersticks
   -diabetic diet
   .
   # Hyperlipidemia: Continue Zocor
   .
   FEN: Cardiac healthy, diabetic diet
   ACCESS: PIV
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen with colace, senna
   CODE: FULL CODE -confirmed with patient on admission to CCU
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-04 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 75 (75 - 75) bpm
   BP: 89/49(59) {86/46(56) - 102/66(74)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  2,192 mL
                                                                    382 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                  1,192 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    500 mL
   Urine:
                                                                    885 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,307 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   11.7 g/dL
   150 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   39 mg/dL
   98 mEq/L
   134 mEq/L
   35.7 %
   7.4 K/uL
         [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
   WBC
   7.4
   Hct
   35.7
   Plt
   136
   Cr
   1.8
   1.8
   1.7
   Glucose
   148
   150
   Other labs: PT / PTT / INR:14.4/65.8/1.3, Ca++:9.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-04 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 75 (75 - 75) bpm
   BP: 89/49(59) {86/46(56) - 102/66(74)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  2,192 mL
                                                                    382 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                  1,192 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    500 mL
   Urine:
                                                                    885 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,307 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   11.7 g/dL
   150 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   39 mg/dL
   98 mEq/L
   134 mEq/L
   35.7 %
   7.4 K/uL
         [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
   WBC
   7.4
   Hct
   35.7
   Plt
   136
   Cr
   1.8
   1.8
   1.7
   Glucose
   148
   150
   Other labs: PT / PTT / INR:14.4/65.8/1.3, Ca++:9.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is an 85 yo M with a history of chronic systolic CHF, LV
   dysfuntion, s/p BiV ICD placment in [**2108**], and h/o VT treated with
   multiple therapies, most recently mexilitine/dofetilide who presents
   with VT refractory to mexilitine therapy now transferred to CCU for
   episodes of VT/VF.
   .
   # RHYTHM: Patient transitioned to amiodarone tonight for V tach but
   continues to have rhythm abnormalities. Since transfer to CCU patient
   has already had 2 episodes of VTach > 10 beats. Patient also has
   history of PAF and has been off of warfarin pending possible procedure.
   Since episodes of Vtach seem to be predominantly at night, I question
   whether hypoxia [**1-21**] OSA might be contributing.
   - Continue to hold Dofetilide and Mixeletene as washes out
   - Stat lytes and replete K to 4.5 and Mg to 2.2
   - Continue amiodarone gtt
   - Start Lidocaine gtt with bolus 100mg x1
   - Make NPO in case of possible ablation
   - Heparin gtt for anticoagulation given possible procedure
   - Continue betablocker for rate control
   .
   # CORONARIES: No known CAD, however many risk factors including DM2,
   HTN, HL. R + L heart cath [**5-1**] shows no flow limiting disease.
   - Continue betablocker, statin
   .
   # PUMP: Chronic systolic heart failure with EF 20%, s/p BiV ICD
   placement. Repeat TTE on this admission shows unchagned EF 20-25%
   dilated, LV with severe global hypokinesis. Mild signs of fluid
   overload on exam, including ankle edema and elevated JVD. Cath revealed
   elevated markedly elevated right (RA = 14 mm Hg) and left heart (PCWP =
   26mmHg) filling pressures consistent with CHF.
   -continue lasix 80 mg IV x1. Goal I/O negative 1 L.
   -will reassess whether metolazone should be restarted
   -continue Carvedilol 12.5mg daily, Spironolactone 25mg daily
   .
   # Renal failure: Cr up to 1.8. Apparent baseline 1.5 to 1.7. Likely due
   to DM and HTN. Also rising in the setting of diuresis.
   - Continue to trend Cr
   - Urine lytes
   - Renally dose medications
   .
   # Chronic back pain: Pain well controlled. Continue tramadol and
   lidoderm patch per outpatient regimen.
   .
   # Type 2 Diabetes: Continue lantus 12 units daily and SSI.
   -qid fingersticks
   -diabetic diet
   .
   # Hyperlipidemia: Continue Zocor
   .
   FEN: NPO for now
   ACCESS: PIV
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen with colace, senna
   CODE: FULL CODE -confirmed with patient on admission to CCU
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-04 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Awaiting urine lytes to confirm suspected pre-renal etiology
   - Con't Anio, Lido gtts
   - PM lytes:
   - Stopped standing Lasix (rec'd one dose IV in AM)--> but rapidly
   becoming more and more positive so gave another shot of IV lasix at
   1900 hours
   - Decreased Simvastatin
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 75 (75 - 75) bpm
   BP: 89/49(59) {86/46(56) - 102/66(74)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  2,192 mL
                                                                    382 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                  1,192 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    500 mL
   Urine:
                                                                    885 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,307 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   VS: 96.8, 76 bpm, 93/82, 19, 100% on 2 L nc
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP at clavicle.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Distant heart sounds. RR, normal S1, S2. No m/r/g.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.  Patient has an umbilical hernia.
   Easily reducible.
   EXTREMITIES: Chronic venous stasis bilaterally. Minimal ankle edema
   bilaterally. 2+ PT pulses bilaterally.
   PULSES:
   Right:DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   136 K/uL
   11.7 g/dL
   150 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   39 mg/dL
   98 mEq/L
   134 mEq/L
   35.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
   WBC
   7.4
   Hct
   35.7
   Plt
   136
   Cr
   1.8
   1.8
   1.7
   Glucose
   148
   150
   Other labs: PT / PTT / INR:14.4/65.8/1.3, Ca++:9.3 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is an 85 yo M with a history of chronic systolic CHF, LV
   dysfuntion, s/p BiV ICD placment in [**2108**], and h/o VT treated with
   multiple therapies, most recently mexilitine/dofetilide who presents
   with VT refractory to mexilitine therapy now transferred to CCU for
   episodes of VT/VF.
   .
   # RHYTHM: Patient transitioned to amiodarone tonight for V tach but
   continues to have rhythm abnormalities. Since transfer to CCU patient
   has already had 2 episodes of VTach > 10 beats. Patient also has
   history of PAF and has been off of warfarin pending possible procedure.
   Since episodes of Vtach seem to be predominantly at night, I question
   whether hypoxia [**1-21**] OSA might be contributing.
   - Continue to hold Dofetilide and Mixeletene as washes out
   - Stat lytes and replete K to 4.5 and Mg to 2.2
   - Continue amiodarone gtt
   - Start Lidocaine gtt with bolus 100mg x1
   - Make NPO in case of possible ablation
   - Heparin gtt for anticoagulation given possible procedure
   - Continue betablocker for rate control
   .
   # CORONARIES: No known CAD, however many risk factors including DM2,
   HTN, HL. R + L heart cath [**5-1**] shows no flow limiting disease.
   - Continue betablocker, statin
   .
   # PUMP: Chronic systolic heart failure with EF 20%, s/p BiV ICD
   placement. Repeat TTE on this admission shows unchagned EF 20-25%
   dilated, LV with severe global hypokinesis. Mild signs of fluid
   overload on exam, including ankle edema and elevated JVD. Cath revealed
   elevated markedly elevated right (RA = 14 mm Hg) and left heart (PCWP =
   26mmHg) filling pressures consistent with CHF.
   -continue lasix 80 mg IV x1. Goal I/O negative 1 L.
   -will reassess whether metolazone should be restarted
   -continue Carvedilol 12.5mg daily, Spironolactone 25mg daily
   .
   # Renal failure: Cr up to 1.8. Apparent baseline 1.5 to 1.7. Likely due
   to DM and HTN. Also rising in the setting of diuresis.
   - Continue to trend Cr
   - Urine lytes
   - Renally dose medications
   .
   # Chronic back pain: Pain well controlled. Continue tramadol and
   lidoderm patch per outpatient regimen.
   .
   # Type 2 Diabetes: Continue lantus 12 units daily and SSI.
   -qid fingersticks
   -diabetic diet
   .
   # Hyperlipidemia: Continue Zocor
   .
   FEN: NPO for now
   ACCESS: PIV
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen with colace, senna
   CODE: FULL CODE -confirmed with patient on admission to CCU
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Start amiodarone 400mg PO BID; received first dose in the evening;
   will temporarily overlap with amiodarone gtt
   - Started on Lasix 40mg IV BID, goal I/O even (-200 at 7:00PM)
   - Hyponatremic with Lasix, will monitor
   - 3 runs of vtach, [**5-29**]+ beats; potassium 40mEq PO x1
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-5-4**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-5**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 75 (73 - 77) bpm
   BP: 92/76(79) {76/31(42) - 103/76(81)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  1,552 mL
                                                                    361 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                  1,262 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    250 mL
   Urine:
                                                                  1,680 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -128 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   137 K/uL
   11.3 g/dL
   214 mg/dL
   1.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   47 mg/dL
   94 mEq/L
   131 mEq/L
   33.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
                             [**2115-5-4**]  06:18 AM
                             [**2115-5-4**]  03:16 PM
                             [**2115-5-5**]  05:47 AM
   WBC
   7.4
   5.0
   5.9
   Hct
   35.7
   34.0
   33.7
   Plt
   136
   144
   137
   Cr
   1.8
   1.8
   1.7
   1.9
   1.8
   1.9
   Glucose
   148
   150
   151
   214
   Other labs: PT / PTT / INR:14.2/65.8/1.2, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Start amiodarone 400mg PO BID; received first dose in the evening;
   will temporarily overlap with amiodarone gtt
   - Started on Lasix 40mg IV BID, goal I/O even (-200 at 7:00PM)
   - Hyponatremic with Lasix, will monitor
   - 3 runs of vtach, [**5-29**]+ beats; potassium 40mEq PO x1
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-5-4**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-5**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 75 (73 - 77) bpm
   BP: 92/76(79) {76/31(42) - 103/76(81)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  1,552 mL
                                                                    361 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                  1,262 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    250 mL
   Urine:
                                                                  1,680 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -128 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GENERAL:  NAD, resting comfortably
   NECK: Supple, no JVD
   CARDIAC: Distant heart sounds. RR, normal S1, S2. No m/r/g.
   LUNGS: CTAB, no crackles, wheezes or rhonchi
   ABDOMEN: Soft, NTND. Umbilical hernia, reducible
   EXTREMITIES: Chronic venous stasis bilaterally. Minimal ankle edema
   bilaterally. 2+ PT pulses bilaterally
   Labs / Radiology
   137 K/uL
   11.3 g/dL
   214 mg/dL
   1.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   47 mg/dL
   94 mEq/L
   131 mEq/L
   33.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
                             [**2115-5-4**]  06:18 AM
                             [**2115-5-4**]  03:16 PM
                             [**2115-5-5**]  05:47 AM
   WBC
   7.4
   5.0
   5.9
   Hct
   35.7
   34.0
   33.7
   Plt
   136
   144
   137
   Cr
   1.8
   1.8
   1.7
   1.9
   1.8
   1.9
   Glucose
   148
   150
   151
   214
   Other labs: PT / PTT / INR:14.2/65.8/1.2, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   85M with chronic systolic CHF, LV dysfuntion, s/p BiV ICD placment in
   [**2108**], and h/o VT treated with multiple therapies, most recently
   mexilitine/dofetilide admitted to CCU [**2115-5-3**] with VT refractory to
   mexilitine therapy
   .
   # RHYTHM: No repeat episodes of vtach within past 12 hours on
   Amiodarone, lidocaine drips. Patient also has history of PAF and has
   been off of warfarin pending possible procedure. No episodes of hypoxia
   overnight to associated vtach to hypoxia, OSA.
   - Continue to hold dofetilide and mexilitine
   - Replete lytes to K 4.5, Mg 2.2
   - Continue Amiodarone gtt
 per EP recs, transition to PO today
   - Continue lidocaine gtt
   - Heparin gtt for anticoagulation to bridge for procedure, will be
   started on coumadin post-procedure
   - Continue beta-blocker for rate control
   .
   # CORONARIES: No known CAD, however many risk factors including DM2,
   HTN, HL. R + L heart cath [**5-1**] shows no flow limiting disease.
   -          Continue betablocker, statin
   -          Why is he not on an aspirin?
   .
   # PUMP: Chronic systolic heart failure with EF 20%, s/p BiV ICD
   placement. Repeat TTE on this admission shows unchanged EF 20-25%
   dilated, LV with severe global hypokinesis. Mild signs of fluid
   overload on exam, including ankle edema and elevated JVD. Cath revealed
   elevated markedly elevated right (RA = 14 mm Hg) and left heart (PCWP =
   26mmHg) filling pressures consistent with CHF.
   - Standing Lasix 40mg IV BID
 goal even I/Os
   - Continue Carvedilol 12.5mg daily, Spironolactone 25mg daily
   - ACE inhibitor not indicated at this time given low BP
   .
   # Renal failure: Creatinine to 1.9. baseline 1.5 to 1.7. Likely due to
   DM and HTN. Urine lytes support a prerenal etiology.
   - Continue to trend Cr
   - Renally dose medications
   .
   # Chronic back pain: Pain well controlled. Continue tramadol and
   lidoderm patch per outpatient regimen.
   .
   # Type 2 Diabetes: Continue lantus 12 units daily and SSI.
   -qid fingersticks
   -diabetic diet
   .
   # Hyperlipidemia: Continue Zocor
   .
   FEN: Cardiac healthy, diabetic diet
   ACCESS: PIV
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen with colace, senna
   CODE: FULL CODE -confirmed with patient on admission to CCU
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Start amiodarone 400mg PO BID; received first dose in the evening;
   will temporarily overlap with amiodarone gtt
   - Started on Lasix 40mg IV BID, goal I/O even (-200 at 7:00PM)
   - Hyponatremic with Lasix, will monitor
   - 3 runs of vtach, [**5-29**]+ beats; potassium 40mEq PO x1
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-5-4**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB, anxiety, nausea, palpitations, light headedness
   Flowsheet Data as of  [**2115-5-5**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 75 (73 - 77) bpm
   BP: 92/76(79) {76/31(42) - 103/76(81)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  1,552 mL
                                                                    361 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                  1,262 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    250 mL
   Urine:
                                                                  1,680 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -128 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GENERAL:  NAD, resting comfortably
   NECK: Supple, no JVD
   CARDIAC: Distant heart sounds. RR, normal S1, S2. No m/r/g.
   LUNGS: Crackles RIGHT base
   ABDOMEN: Soft, NTND. Umbilical hernia, reducible
   EXTREMITIES: Chronic venous stasis bilaterally. 1+ ankle edema
   bilaterally. 2+ PT pulses bilaterally
   Labs / Radiology
   137 K/uL
   11.3 g/dL
   214 mg/dL
   1.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   47 mg/dL
   94 mEq/L
   131 mEq/L
   33.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
                             [**2115-5-4**]  06:18 AM
                             [**2115-5-4**]  03:16 PM
                             [**2115-5-5**]  05:47 AM
   WBC
   7.4
   5.0
   5.9
   Hct
   35.7
   34.0
   33.7
   Plt
   136
   144
   137
   Cr
   1.8
   1.8
   1.7
   1.9
   1.8
   1.9
   Glucose
   148
   150
   151
   214
   Other labs: PT / PTT / INR:14.2/65.8/1.2, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   85M with chronic systolic CHF, LV dysfuntion, s/p BiV ICD placment in
   [**2108**], and h/o VT treated with multiple therapies, most recently
   mexilitine/dofetilide admitted to CCU [**2115-5-3**] with VT refractory to
   mexilitine therapy, now continues to have VT episodes despite
   Amiodarone and Lidocaine gtt.
   .
   # RHYTHM: Several episodes of v tach over last 24 hours, but none
   greater than 15 beats. Remains on Amiodarone po/IV and lidocaine drips.
   Patient also has history of PAF and has been off of warfarin pending
   possible procedure. No episodes of hypoxia overnight to associated
   vtach to hypoxia, OSA.
   - Continue to hold dofetilide
   - Restart mexelitene and d/c lidocaine gtt at 6 pm tonight
   - Replete lytes to K 4.5, Mg 2.2. Lytes drawn [**Hospital1 **].
   - Continue Amiodarone gtt with overall of po Amiodarone for Loading
   - Heparin gtt for anticoagulation to bridge for procedure, will be
   started on coumadin post-procedure
   - Wlll decreased carvedilol to 6.25 mg  po BID since patient has had
   multiple rounds held for hypotension and he would clearly benefit from
   having betablocker on board. Will consider transition to metoprolol if
   persistently hypotensive.
   - Plan for ablation procedure in next 1-2 days per EP
   .
   # CORONARIES: No known CAD, however many risk factors including DM2,
   HTN, HL. R + L heart cath [**5-1**] shows no flow limiting disease.
   - Continue betablocker, statin
   - Plan to start asa 81 mg po for primary prevention post-procedure
   .
   # PUMP: Chronic systolic heart failure with EF 20%, s/p BiV ICD
   placement. Repeat TTE on this admission shows unchanged EF 20-25%
   dilated, LV with severe global hypokinesis. Mild signs of fluid
   overload on exam, including ankle edema and elevated JVD. Cath revealed
   elevated markedly elevated right (RA = 14 mm Hg) and left heart (PCWP =
   26mmHg) filling pressures consistent with CHF.
   - Standing Lasix 40mg IV BID
 goal even I/Os
   - Reduce dose carvedilol as above, Spironolactone 25mg daily with
   holding parameters
   - ACE inhibitor not indicated at this time given low BP
   .
   # Renal failure: Creatinine stable at  1.9. baseline 1.5 to 1.7. Likely
   due to DM and HTN. Urine lytes support a prerenal etiology in the
   setting of diuresis. .
   - Continue to trend Cr
   - Renally dose medications
   .
   # Chronic back pain: Pain well controlled. Continue tramadol and
   lidoderm patch per outpatient regimen.
   .
   # Type 2 Diabetes: Continue lantus 12 units daily and SSI.
   -qid fingersticks
   -diabetic diet
   .
   # Hyperlipidemia: Continue Zocor
   .
   FEN: Cardiac healthy, diabetic diet
   ACCESS: PIV
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen with colace, senna
   CODE: FULL CODE -confirmed with patient on admission to CCU
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-06 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2115-5-5**] 04:00 PM
   [**2115-5-5**]
   - Mexelitine started at 150 mg po TID. Lidocaine gtt stopped at 1800.
   - Amiodarone - 5,950 mg as of MN on [**2115-5-6**]. Will continue Amiodarone
   IV and Po overlap per EP.
   - Carvedilol reduced from 12.5 to 6.25 [**Hospital1 **] given Low SBPs
   - Goal I/O even - + 101 cc at 1900; -560 at MN
   - Had some nausea - responded to compazine and Maalox. ekg unchanged.
   - Requested prn sleep aid. Got trazodone.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-5-5**] 06:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2115-5-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 75 (73 - 77) bpm
   BP: 86/54(61) {78/45(54) - 95/63(71)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  1,441 mL
                                                                    143 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,081 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    300 mL
   Urine:
                                                                  1,940 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   153 K/uL
   11.8 g/dL
   213 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   47 mg/dL
   93 mEq/L
   129 mEq/L
   35.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
                             [**2115-5-4**]  06:18 AM
                             [**2115-5-4**]  03:16 PM
                             [**2115-5-5**]  05:47 AM
                             [**2115-5-5**]  03:46 PM
                             [**2115-5-6**]  06:48 AM
   WBC
   7.4
   5.0
   5.9
   4.9
   Hct
   35.7
   34.0
   33.7
   35.7
   Plt
   136
   144
   137
   153
   Cr
   1.8
   1.8
   1.7
   1.9
   1.8
   1.9
   1.8
   Glucose
   148
   150
   151
   214
   213
   Other labs: PT / PTT / INR:14.2/65.8/1.2, Ca++:9.4 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-05-06 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2115-5-5**] 04:00 PM
   [**2115-5-5**]
   - Mexelitine started at 150 mg po TID. Lidocaine gtt stopped at 1800.
   - Amiodarone - 5,950 mg as of MN on [**2115-5-6**]. Will continue Amiodarone
   IV and Po overlap per EP.
   - Carvedilol reduced from 12.5 to 6.25 [**Hospital1 **] given Low SBPs
   - Goal I/O even - + 101 cc at 1900; -560 at MN
   - Had some nausea - responded to compazine and Maalox. ekg unchanged.
   - Requested prn sleep aid. Got trazodone.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-5-5**] 06:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2115-5-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 75 (73 - 77) bpm
   BP: 86/54(61) {78/45(54) - 95/63(71)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  1,441 mL
                                                                    143 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,081 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    300 mL
   Urine:
                                                                  1,940 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   153 K/uL
   11.8 g/dL
   213 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   47 mg/dL
   93 mEq/L
   129 mEq/L
   35.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2115-5-3**]  04:16 AM
                             [**2115-5-3**]  02:45 PM
                             [**2115-5-3**]  04:07 PM
                             [**2115-5-4**]  06:18 AM
                             [**2115-5-4**]  03:16 PM
                             [**2115-5-5**]  05:47 AM
                             [**2115-5-5**]  03:46 PM
                             [**2115-5-6**]  06:48 AM
   WBC
   7.4
   5.0
   5.9
   4.9
   Hct
   35.7
   34.0
   33.7
   35.7
   Plt
   136
   144
   137
   153
   Cr
   1.8
   1.8
   1.7
   1.9
   1.8
   1.9
   1.8
   Glucose
   148
   150
   151
   214
   213
   Other labs: PT / PTT / INR:14.2/65.8/1.2, Ca++:9.4 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   85M with chronic systolic CHF, LV dysfuntion, s/p BiV ICD placment in
   [**2108**], and h/o VT treated with multiple therapies, most recently
   mexilitine/dofetilide admitted to CCU [**2115-5-3**] with VT refractory to
   mexilitine therapy, now continues to have VT episodes despite
   Amiodarone and Lidocaine gtt.
   .
   # RHYTHM: Several episodes of v tach over last 24 hours, but none
   greater than 15 beats. Remains on Amiodarone po/IV and lidocaine drips.
   Patient also has history of PAF and has been off of warfarin pending
   possible procedure. No episodes of hypoxia overnight to associated
   vtach to hypoxia, OSA.
   - Continue to hold dofetilide
   - Restart mexelitene and d/c lidocaine gtt at 6 pm tonight
   - Replete lytes to K 4.5, Mg 2.2. Lytes drawn [**Hospital1 **].
   - Continue Amiodarone gtt with overall of po Amiodarone for Loading
   - Heparin gtt for anticoagulation to bridge for procedure, will be
   started on coumadin post-procedure
   - Wlll decreased carvedilol to 6.25 mg  po BID since patient has had
   multiple rounds held for hypotension and he would clearly benefit from
   having betablocker on board. Will consider transition to metoprolol if
   persistently hypotensive.
   - Plan for ablation procedure in next 1-2 days per EP
   .
   # CORONARIES: No known CAD, however many risk factors including DM2,
   HTN, HL. R + L heart cath [**5-1**] shows no flow limiting disease.
   - Continue betablocker, statin
   - Plan to start asa 81 mg po for primary prevention post-procedure
   .
   # PUMP: Chronic systolic heart failure with EF 20%, s/p BiV ICD
   placement. Repeat TTE on this admission shows unchanged EF 20-25%
   dilated, LV with severe global hypokinesis. Mild signs of fluid
   overload on exam, including ankle edema and elevated JVD. Cath revealed
   elevated markedly elevated right (RA = 14 mm Hg) and left heart (PCWP =
   26mmHg) filling pressures consistent with CHF.
   - Standing Lasix 40mg IV BID
 goal even I/Os
   - Reduce dose carvedilol as above, Spironolactone 25mg daily with
   holding parameters
   - ACE inhibitor not indicated at this time given low BP
   .
   # Renal failure: Creatinine stable at  1.9. baseline 1.5 to 1.7. Likely
   due to DM and HTN. Urine lytes support a prerenal etiology in the
   setting of diuresis. .
   - Continue to trend Cr
   - Renally dose medications
   .
   # Chronic back pain: Pain well controlled. Continue tramadol and
   lidoderm patch per outpatient regimen.
   .
   # Type 2 Diabetes: Continue lantus 12 units daily and SSI.
   -qid fingersticks
   -diabetic diet
   .
   # Hyperlipidemia: Continue Zocor
   .
   FEN: Cardiac healthy, diabetic diet
   ACCESS: PIV
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Bowel regimen with colace, senna
   CODE: FULL CODE -confirmed with patient on admission to CCU
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2115-5-3**] 03:42 AM
   20 Gauge - [**2115-5-3**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: